US05736068
50.1 g (0.36 mol) of potassiumn carbonate and 115.6 g of methyl isobutyl ketone were added to 124 g (0.69 mol) of 1-hydroxy-2-pentoxybenzene and 100.8 g (0.69 mol), after which the mixture was refluxed for 40 hours. The mixture was cooled, after which the potassium carbonate was filtered off and the methyl isobutyl ketone was distilled off under reduced pressure. The oily residue was then subjected to fractional distillation over a short column under reduced pressure from an oil pump. 78.2 g of 1-(3'-hydroxypropoxy)-2-pentoxybenzene were obtained at 5 mbar and a boiling point of 140°-148° C.

reactant | 1-hydroxy-2-pentoxybenzene | 0.69 mol, 124 g | OC1=C(C=CC=C1)OCCCCC | C11H16O2
solvent | methyl isobutyl ketone | 115.6 g | C(C(C)C)C(=O)C | C6H12O
product | 1-(3'-hydroxypropoxy)-2-pentoxybenzene | 78.2 g | OCCCOC1=C(C=CC=C1)OCCCCC | C14H22O3
